US08877944B2
3-Oxo-2-piperidin-4-yl-2,3-dihydro-1H-isoindole-4-carboxylic acid
3-(1-Tert-butoxycarbonyl-piperidin-4-yl)-4-oxo-10-oxa-3-aza-tricyclo[5.2.1.0*1,5*]dec-8-ene-6-carboxylic acid (6.35 g, 16.8 mmol) was dissolved in 37% hydrochloric acid (80 mL) and the resulted solution was refluxed for 3 hours. The solvent was removed under reduced pressure and the residue was diluted with methanol and decanted in order to obtained the desired product as a white solid (4.06 g, 82%).

reactant | 3-(1-Tert-butoxycarbonyl-piperidin-4-yl)-4-oxo-10-oxa-3-aza-tricyclo[5.2.1.0*1,5*]dec-8-ene-6-carboxylic acid | 16.8 mmol, 6.35 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC23C(C1=O)C(C(C=C2)O3)C(=O)O | C19H26N2O6
solvent | hydrochloric acid | 80 mL | Cl | ClH
product | 3-Oxo-2-piperidin-4-yl-2,3-dihydro-1H-isoindole-4-carboxylic acid | 4.06 g, 82% | O=C1N(CC=2C=CC=C(C12)C(=O)O)C1CCNCC1 | C14H16N2O3
